Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.65265197977
[C:6]([H:7])([H:8])[H:9].[H:1][C:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.4093514945
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12].[H:4],1.82738238817
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:3]([O:4][H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][C:2],6.04632491396
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:4],3.67800881717
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:8]([H:9])[H:10].[H:7],1.57472499452
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.82170880932
[H:3].[O:1]=[C:2]([C:4]#[C:5][H:6])[O:7][H:8]>>[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[O:7][H:8],-0.193717532467
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2],4.3723078209900015
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9].[H:1][C:2],8.3730421578
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10]>>[C:5]([H:6])#[C:7][C:8][O:9][H:10].[H:1][C:2]#[C:3][H:4],1.3788958544
[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-2.63313991934
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:4],4.03443234052
[H:1][C:2]([H:3])=[C:4]([H:5])[C:8]#[C:7][C:6]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],0.00900133785035
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],2.01592663415
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],3.91154210162
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.89954088112
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3],5.11906782547
[C:1]#[C:2][O:3][C:4][H:5].[C:6][O:7][H:8]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-4.81553453481
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],4.59421328815
[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:13]([C:10]([O:9][C:6]([H:7])[H:8])([H:11])[H:12])([H:14])[H:15],0.70980624175
[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.80752190128
[C:1][C:2][C:3]#[C:4][O:5]>>[C:1]#[C:2].[C:3][C:4][O:5],5.60876284094
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],7.3996368588699974
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.624625797059999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:14]([H:15])[H:16],4.76310749732
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10].[O:11][H:12],5.53830585449
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])(=[C:5][C:9]([H:10])([H:11])[H:12])[H:8].[H:1][C:2]#[C:6][H:7],2.0172940981400003
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],0.658000785011
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-1.78162307491
